US03940489
9.6 gm (0.05 mol) of 1-(3-cyanophenoxy)-2-hydroxy-3-amino propane were dissolved in 40 ml of dimethylformamide and 100 ml of tetrahydrofuran and 4.2 gm (0.05 mol) of pulverized sodium bicarbonate were added thereto. Then, 6.9 gm (0.05 mol) of tert.-butylbromide were added and the mixture was refluxed for 24 hours. After the mixture had been cooled, the inorganic solid was filtered off and the solvent mixture was distilled off in vacuo. The residue was dissolved by heating in ethyl acetate and the insoluble inorganic portions were vacuum filtered off and the filtrate was admixed with petroleum ether. The base precipitated in solid form and was isolated and recrystallized from ethyl acetate with an addition of petroleum ether to obtain 1-(3-cyanophenoxy)-2-hydroxy-3-tert.-butylamino propane having a melting point of 108° - 110°C.

reactant | 1-(3-cyanophenoxy)-2-hydroxy-3-amino propane | 0.05 mol, 9.6 gm | C(#N)C=1C=C(OCC(CN)O)C=CC1 | C10H12N2O2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | sodium bicarbonate | 0.05 mol, 4.2 gm | C([O-])(O)=O.[Na+]
reactant | tert.-butylbromide | 0.05 mol, 6.9 gm | C(C)(C)(C)Br | C4H9Br
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-(3-cyanophenoxy)-2-hydroxy-3-tert.-butylamino propane | C(#N)C=1C=C(OCC(CNC(C)(C)C)O)C=CC1 | C14H20N2O2
